US07622469B2
6-Octyl-2,4-diamino-1,6-dihydro-1-(2′-methoxy-5′-tert-butylphenyl)-1,3,5-triazine hydrochloride
100 ml of ethanol, 3.7 g (26.2 mmol) of 1-nonanal and 0.8 ml of concentrated hydrochloric acid were added to 6.0 g (20.0 mmol) of N1-(2-methoxy-5-tert-butylphenyl)-biguanide hydrochloride, and the mixture was refluxed for 20 hours. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (elution with a mixture of chloroform and methanol (9:1.5)). The eluate was dissolved in 80% aqueous ethanol, and the solvent was distilled off under reduced pressure. The residue was recrystallized from ethanol and ether to obtain 2.3 g of pale yellow crystals having a melting point of 217 to 219° C.

reactant | 1-nonanal | 26.2 mmol, 3.7 g | C(CCCCCCCC)=O | C9H18O
reactant | hydrochloric acid | 0.8 ml | Cl | ClH
reactant | N1-(2-methoxy-5-tert-butylphenyl)-biguanide hydrochloride | 20.0 mmol, 6.0 g | Cl.COC1=C(C=C(C=C1)C(C)(C)C)NC(=N)NC(=N)N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-Octyl-2,4-diamino-1,6-dihydro-1-(2′-methoxy-5′-tert-butylphenyl)-1,3,5-triazine hydrochloride | 2.3 g | Cl.C(CCCCCCC)C1N=C(N=C(N1C1=C(C=CC(=C1)C(C)(C)C)OC)N)N | InChI=1S/C22H37N5O.ClH/c1-6-7-8-9-10-11-12-19-25-20(23)26-21(24)27(19)17-15-16(22(2,3)4)13-14-18(17)28-5;/h13-15,19H,6-12H2,1-5H3,(H4,23,24,25,26);1H
